US08624040B2
Step 5: 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid
To a solution of ethyl 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (32.6 g, 76.8 mmol) in THF (853 mL) was added 1.0 M aqueous LiOH (307 mL, 307 mmol) and the reaction mixture stirred overnight at room temperature. The solution was concentrated and the residue dissolved in water (100 mL) and neutralized with 1.0 M aqueous HCl (307 mL). The resulting precipitate was collected via vacuum filtration to afford white solid (29 g, 95%). LCMS (FA) ES+ 397; 1H NMR (400 MHz, DMSO) δ 13.04 (s, 1H), 8.08 (dd, J=7.6, 1.6 Hz, 1H), 8.02 (dd, J=7.7, 1.5 Hz, 1H), 7.95-7.86 (m, 2H), 7.49 (s, 1H), 4.36 (s, 2H), 3.40 (s, 2H), 1.28 (s, 6H).

reactant | ethyl 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 76.8 mmol, 32.6 g | CC1(C2=C(CN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C=C(S2)C(=O)OCC)C | C18H20N2O6S2
reactant | LiOH | 307 mmol, 1.0 M, 307 mL | [Li+].[OH-]
solvent | THF | 853 mL | C1CCOC1 | C4H8O
product | 7,7-dimethyl-5-(2-nitrophenylsulfonyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid | 29 g, 95% | CC1(C2=C(CN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C=C(S2)C(=O)O)C | C16H16N2O6S2
